US08466282B2
Ethyl 3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxylate
A solution of a mixture of phenol (2.20 g) and sodium hydride (95 wt %, 500 mg) in DMF (40 ml) was added dropwise to a solution of ethyl 3-(chloromethyl)imidazo[1,2-a]pyridine-2-carboxylate hydrochloride (3.5 g) in DMF (50 ml) at 0° C. Triethylamine (2.7 ml) was added at the same temperature over 30 min. The reaction mixture was stirred at 50° C. for 3 hr, and the reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (6:1) was concentrated under reduced pressure to give the object product (1.5 g).

reactant | phenol | 2.20 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 500 mg | [H-].[Na+]
reactant | ethyl 3-(chloromethyl)imidazo[1,2-a]pyridine-2-carboxylate hydrochloride | 3.5 g | Cl.ClCC1=C(N=C2N1C=CC=C2)C(=O)OCC
reactant | Triethylamine | 2.7 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 3-(phenoxymethyl)imidazo[1,2-a]pyridine-2-carboxylate | 1.5 g | O(C1=CC=CC=C1)CC1=C(N=C2N1C=CC=C2)C(=O)OCC | C17H16N2O3
